US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(pyridin-3-yl)benzamido)-4-(2-methoxyphenyl)benzoate (0.19 g) in ethyl acetate (5.0 mL) and methanol (5.0 mL), 10% palladium-carbon (39 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. To the reaction mixture, 10% palladium-carbon (39 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. Tetrahydrofuran was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), PSQ100B (spherical), eluent: 100-91% chloroform/methanol] to obtain tert-butyl 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-(2-methoxyphenyl)benzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyridin-3-yl)benzamido)-4-(2-methoxyphenyl)benzoate | 0.19 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)C=1C=NC=CC1 | C37H34N2O5
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5.0 mL | CO | CH4O
catalyst | palladium-carbon | 39 mg | [C].[Pd]
catalyst | palladium-carbon | 39 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(pyridin-3-yl)benzamido)-4-(2-methoxyphenyl)benzoate | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)C=1C=NC=CC1 | C30H28N2O5
